US08633173B2
N-[2-(2-Amino-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-phenyl]-N-methyl-methanesulfonamide was prepared from 8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (625.0 mg, 2.934 mmol) and N-methyl-N-[2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]-methanesulfonamide (1000.0 mg, 3.2133 mmol) in a manner analogous to Example 2c. Product was isolated as white solid (0.479 g, 51%). 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 8.52 (d, J=6.5 Hz, 1H), 7.62 (d, J=7.4 Hz, 1H), 7.55-7.42 (m, 3H), 7.35 (d, J=7.2 Hz, 1H), 6.94 (t, J=7.1 Hz, 1H), 5.94 (s, 2H), 3.10 (s, 3H), 2.85 (s, 3H). MP=209-211° C. MS=318 (MH)+.

reactant | 8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 2.934 mmol, 625.0 mg | BrC=1C=2N(C=CC1)N=C(N2)N | C6H5BrN4
reactant | N-methyl-N-[2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]-methanesulfonamide | 3.2133 mmol, 1000.0 mg | CN(S(=O)(=O)C)C1=C(C=CC=C1)B1OC(C(O1)(C)C)(C)C | C14H22BNO4S
product | N-[2-(2-Amino-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-phenyl]-N-methyl-methanesulfonamide | NC1=NN2C(C(=CC=C2)C2=C(C=CC=C2)N(S(=O)(=O)C)C)=N1 | C14H15N5O2S
